US06531478B2
To a solution of 1-(4-tolyl)-3-(4′-(4-aminophenyl)sulfonylamino phenyl)-5-aminopyrazole (0.07 g, 0.34 mmol) in acetonitrile (5 mL) at room temperature was added 37% formaldehyde in H2O (0.028 mL, 0.34 mmol), acetic acid (0.01 mL) and NaCNBH3 (0.02 g, 0.34 mmol). The mixture was stirred at room temperature overnight. The mixture was diluted with saturated aqueous NaHCO3 solution (10 mL) and extracted with EtOAc (50 mL). The organic layer was separated, dried over Na2SO4 and concentrated. The residue was purified by column chromatography, eluting with 1:1 hexanes/EtOAc to give 4-(methylamino)-N-[4-[5-(methylamino)-1-(4-methylphenyl)-1H-pyrazol-3-yl]phenyl]-benzensulfonamide.

reactant | 1-(4-tolyl)-3-(4′-(4-aminophenyl)sulfonylamino phenyl)-5-aminopyrazole | 0.34 mmol, 0.07 g | C1(=CC=C(C=C1)N1N=C(C=C1N)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)N)C | C22H21N5O2S
reactant | formaldehyde | C=O | CH2O
reactant | H2O | 0.34 mmol, 0.028 mL | O | H2O
reactant | NaCNBH3 | 0.34 mmol, 0.02 g | [BH3-]C#N.[Na+]
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetic acid | 0.01 mL | C(C)(=O)O | C2H4O2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | 4-(methylamino)-N-[4-[5-(methylamino)-1-(4-methylphenyl)-1H-pyrazol-3-yl]phenyl]-benzensulfonamide | CNC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C1=NN(C(=C1)NC)C1=CC=C(C=C1)C | C24H25N5O2S
